data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2804,3115,[CH3:27][C:28](=[O:29])[C-:30]([N+:31]#[C:32][C:33]#[N:34])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1.[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([C:15]([F:16])([F:17])[F:18])([C:19]([F:20])([F:21])[F:22])[CH2:23][CH2:24][CH2:25][CH2:26]1)[C:32]([C:33]#[N:34])=[N:31][C:30]2([C:28]([CH3:27])=[O:29])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1,water,298.15,16.98903660608485,-37.409140209097096
2983,3335,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][c-:8]1[o+:9][n:10][o:11][c:12]1=[O:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:10]2[O:9][C:8]1([CH3:7])[C:12](=[O:13])[O:11]2,water,298.15,22.51214070891048,-12.379891289175973
1562,1728,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3]([Cl:4])=[C:5]([O:6][CH3:7])[O:8][CH3:9]>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]([O:6][CH3:7])([O:8][CH3:9])[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:23]([CH3:24])=[O:25],water,298.15,29.43705998453436,-7.129801301338526
763,825,[CH3:11][CH:12]=[N+:13]([CH3:14])[C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:16]([CH3:17])=[O:18])([C:19]([CH3:20])=[O:21])[N:13]([CH3:14])[CH:12]2[CH3:11],water,298.15,37.1533736505946,-4.546290871214863
681,741,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][NH:9][C:10](=[O:11])[N-:12][N+:13]([CH3:14])=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:15]([CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:13]([CH3:14])[N:12]1[C:10]([NH:9][CH3:8])=[O:11],water,298.15,29.084969087010464,-31.48757141333613
1443,1585,[CH3:12][NH:13][C:14](=[O:15])[N-:16][NH+:17]=[C:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[NH:17][N:16]3[C:14]([NH:13][CH3:12])=[O:15],water,298.15,28.573080567550573,-35.49692941657382
1008,1098,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([CH3:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:21]([CH3:22])([CH3:23])[N:19]([CH3:20])[C:17]2([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,26.82195316654357,-28.73852218243495
973,1057,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:16]=[C:17]2[C:18]#[N:19],water,298.15,19.516206209226727,-35.488673719574855
3919,4483,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C-:7]([NH+:8]=[C:9]([C:10]#[N:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[C:18](=[O:19])[O:20][CH3:21]>>[CH2:1]1[CH2:2][C:7]([C:5]([O:4][CH3:3])=[O:6])([C:18](=[O:19])[O:20][CH3:21])[NH:8][C:9]1([C:10]#[N:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,18.54227011729316,-25.25711618810639
1486,1641,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]([CH3:18])=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:19]([CH3:20])([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:17]([CH3:18])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,34.526934954181925,-16.85772707294894
1396,1537,[C:8](#[N+:9][C-:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH:1]1=[CH:2][CH:3]2[CH:4]=[CH:5][CH:6]1[O:7]2>>[CH:1]1=[CH:2][CH:3]2[CH:4]3[CH:5]([CH:6]1[O:7]2)[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[N:9]=[C:8]3[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,10.8485546696999,-57.1125562914244
3202,3616,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[c-:10]1[nH+:11][c:12]([CH3:13])[o:14][c:15]1=[O:16]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:10]2([C:8]([CH3:7])=[O:9])[NH:11][C:12]1([CH3:13])[O:14][C:15]2=[O:16],water,298.15,37.39967504731952,12.946490886331407
